Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Valium / Penicillins / Omeprazole Sodium / Morphine / 
Lisinopril
 
Attending: ___
 
Chief Complaint:
Shortness of Breath
 
Major Surgical or Invasive Procedure:
Diagnostic paracentesis
Therapeutic paracentesis
Esophagogastroduodenoscopy (EGD)

 
History of Present Illness:
___ with PMH of HCV, COPD, EtOH use, HTN, HLD, PVD, and 
peripheral neuropathy who presented with 3 week h/o worsening 
SOB and abdominal distension in the setting of running out of 
her inhalers. Patient reports 4 days h/o intermittent CP 
radiating to LUQ present at rest and upon exertion, which she 
has had for many years. Persantine stress test performed ___ was negative for ischemia. The SOB is worse with exertion, 
and she is unable to lie supine. She has had to increase the 
number of pillows she sleeps on, and often wakes up in the 
middle of the night feeling short of breath. The abdominal 
distension has been worsening over the past 4 weeks, and is 
associated with abdominal discomfort, anorexia, and nausea 
without vomiting. She reports having dark black stools for the 
past few weeks which over the past ___ days have become 
mucous-like and "fluorescent green." Denies seeing red blood in 
her stool. Patient reports chronic intermittent dysuria, but 
denies hematuria. Denies fevers or chills. Patient smokes 
tobacco and reports drinking two 24oz beers twice week, although 
she told the ED she drinks daily. Patient has had tremor for 
many years, but states that today it is better than usual. 
Patient states that she gets intermittently confused (forgets 
what she was doing or that she was cooking). She states the 
confusion has been happening for years, but has gotten worse 
recently. Patient has chronic insomnia which has not worsened 
recently. She states she looks a little yellow sometimes. 

Of note, she used to follow with ___ but has not seen 
him since ___. She is not currently seeing a hepatologist. 

In the ED intial vitals were: 
T 96.2, HR 80, BP 156/53, RR 28, 98% 2L. 
Labs/imaging were significant for:
# LFT: AST/ALT ratio >2:1 (AST 245, ALT 89), AP 233, Alb 3.4, 
Tbili 1.1, lipase 38, lactate 2.9
# CBC: WBC 7.2, Hct 42.5, plt 189, MCV 105. 
# INR 1.3 
# Chem: Cr 0.6, Bicarb 19, lytes otherwise unremarkble. 
# UCG negative. UA negative.
# Trop-T: <0.01 
# EKG: ECG sinus 80, normal axis, normal intervals no evidence 
of ischemia. 
# CXR: Emphysema without superimposed pneumonia or CHF.
# CT abd/pel: New ascites, not acute liver changes 

She states she's never had a paracentesis before, but was noted 
to have ascites in the ED which was tapped. Paracentesis 
revealed no evidence of SBP. Blood, urine and ascitic fluid 
cultures sent. Patient was given morphine, duonebs x2, 
azithromycin and methylpred. Vitals prior to transfer were: HR 
86, BP 150/90, RR 16, SpO2 96% RA.

ROS: per HPI
 
Past Medical History:
COPD (never formally dx by spirometry, bullous emphysema on CT  
imaging ___  
Hepatitis C (stage ___ fibrosis per liver bx ___  
HTN (poorly controlled at b/l, non compliant with meds; P-MIBI  
negative in ___, stress-Echo ___ EF 60%, trivial MR, no  
inducible ischemia)  
HLD  
Peripheral neuropathy  
PVD (L subclavian stenosis seen on CTA ___ and MRA ___  
and RE arterial insufficiency; ABI showing minimal disease below 
 
the knee at the tibial level on ___  
Depression, requiring hospitalization in past  
h/o polysubstance abuse, including cocaine and iv drug use, and  

on-going alcohol and tobacco use  
Hiatal hernia, s/p nissen fundoplication  
GERD  
esophageal stricture (Schatzkis ring)  
Fe def anemia  
Fibromyalgia  
Cervical spondylosis  
Stress incontinence  
Osteoarthritis 
 
Social History:
___
Family History:
Mother: CAD, deceased. 9 siblings, one deceased (cause unknown). 
Four children, all healthy. 
 
Physical Exam:
ADMISSION
Vitals- 97.7 181/88 101, 20 100%2L
GENERAL: sad, teary woman appearing older than states age 
HEENT: AT/NC, EOMI, PERRLA, anicteric sclera, pink conjunctiva, 
patent nares, dry MM, no sublingual icterus, nontender supple 
neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB with only wheezes at bases b/l, no rales, no rhonchi, 
breathing comfortably without use of accessory muscles, speaking 
full sentences  
ABDOMEN: soft, distended, +BS, diffusely tender in all 
quadrants, no rebound/guarding, unable to appreciate 
hepatosplenomegaly ___ large ascites. RLQ para site without 
bleeding, ecchymosis
EXTREMITIES: moving all extremities well, no cyanosis, clubbing 
or edema, no obvious deformities  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, CN II-XII intact. + tremor, no asterixis. ___ 
strength throughout, sensation intact to light touch and temp 
thoughout
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes, no jaundice. Mild palmar erythema, no spiders noted

DISCHARGE
Vitals- T 98.5  BP 126/72  HR 74  RR 16  SpO2 94% RA
General- Alert, oriented, no acute distress  
HEENT- Sclera anicteric, MMM
Neck- Supple, no JVD   
Lungs- CTAB. No wheezes, rales, ronchi. Not using accessory 
muscles of respiration. Speaking in full sentences. 
CV- RRR, normal S1/S2, no murmurs, rubs, gallops  
Abdomen- Mildly distended, diffusely tender to palpation 
throughout with no guarding or rebound tenderness. Bowel sounds 
present. Prominent superficial veins. Paracentesis site 
dressings C/D/I w/o surrounding erythema.   
GU- No foley  
Ext- Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro- CNs2-12 intact, motor function grossly normal. No 
asterexis. Intention tremor present. 
 
Pertinent Results:
ADMISSION
___ 07:00PM BLOOD WBC-7.2 RBC-4.07* Hgb-13.7 Hct-42.5 
MCV-105* MCH-33.6* MCHC-32.2 RDW-14.4 Plt ___
___ 07:00PM BLOOD Neuts-72.0* ___ Monos-6.8 Eos-0.7 
Baso-0.5
___ 07:00PM BLOOD ___ PTT-35.9 ___
___ 07:00PM BLOOD Glucose-117* UreaN-6 Creat-0.6 Na-141 
K-3.5 Cl-108 HCO3-19* AnGap-18
___ 07:00PM BLOOD ALT-89* AST-245* AlkPhos-233* TotBili-1.1
___ 07:00PM BLOOD Lipase-38
___ 07:00PM BLOOD cTropnT-<0.01
___ 07:00PM BLOOD Albumin-3.4*
___ 07:00PM BLOOD AFP-11.5*
___ 07:00PM BLOOD ASA-NEG Acetmnp-NEG Bnzodzp-NEG 
Barbitr-NEG Tricycl-NEG
___ 07:14PM BLOOD Lactate-2.9*
___ 10:50PM URINE bnzodzp-NEG barbitr-NEG opiates-POS 
cocaine-POS amphetm-NEG mthdone-NEG
___ 10:50PM URINE UCG-NEGATIVE
___ 10:50PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 10:50PM URINE Color-Straw Appear-Hazy Sp ___
___ 09:30PM ASCITES WBC-540* RBC-206* Polys-2* Lymphs-50* 
Monos-29* Mesothe-6* Macroph-13*
___ 09:30PM ASCITES TotPro-1.7 Glucose-137 Albumin-1.0

MICRO
___ SEROLOGY/BLOOD HELICOBACTER PYLORI 
ANTIBODY TEST (Final ___: POSITIVE BY EIA. 
___ PERITONEAL FLUID  
---FLUID CULTURE (Final ___: NO GROWTH. 
---ANAEROBIC CULTURE (Preliminary): NO GROWTH.
---GRAM STAIN (Final ___: 1+ (<1 per 1000X FIELD): 
POLYMORPHONUCLEAR LEUKOCYTES. NO MICROORGANISMS SEEN.
___  URINE CULTURE(Final ___ 
org/ml. 
___ Blood Culture, Routine-PENDING 

IMAGING
___ (PA & LAT)
IMPRESSION:  Emphysema without superimposed pneumonia or CHF.

___ ABD & PELVIS W/O CONTRAST
IMPRESSION: Large ascites, new compared to ___.  

___ DOPP ABD/PEL
IMPRESSION:
1. Patent hepatic vasculature.  No portal vein thrombus 
identified.
2. Coarsened hepatic architecture consistent with cirrhosis.
3. Small residual ascites seen in the abdomen.

___       EGD report
Impression: Erythema and mosaic appearance in the whole stomach 
compatible with portal hypertensive gastropathy. No evidence of 
esophageal varices.
Nodularity and erythema in the duodenal bulb compatible with 
duodenitis. Evidence of fundoplication wrap on retroflex. 
Otherwise normal EGD to third part of the duodenum.

___ (SUPINE & ERECT)
IMPRESSION: No free air.

___ (SUPINE & ERECT)
IMPRESSION: Nonspecific bowel gas pattern.  No free air.

___ ABD LIMIT, SINGLE ORGAN
IMPRESSION: Small volume of ascites, insufficient for 
therapeutic paracentesis.

DISCHARGE
___ 08:10AM BLOOD WBC-7.3 RBC-3.46* Hgb-11.6* Hct-37.1 
MCV-107* MCH-33.5* MCHC-31.3 RDW-14.1 Plt ___
___ 08:10AM BLOOD ___
___ 08:10AM BLOOD Glucose-114* UreaN-4* Creat-0.8 Na-136 
K-4.4 Cl-102 HCO3-25 AnGap-13
___ 08:10AM BLOOD ALT-66* AST-129* AlkPhos-193* TotBili-1.3
___ 08:10AM BLOOD Calcium-8.8 Phos-3.1 Mg-1.___ w/ COPD, hep C, ETOH use, HTN, HL, peripheral neuropathy, 
and PVD presented with worsening dyspnea and abdominal 
distension in the setting of medication noncompliance and daily 
alcohol use.

#Dyspnea: Patient presented with a 3 week history of worsening 
shortness of breath which was likely multifactorial due to 
medication noncompliance with inhalers in the setting of COPD as 
well as increased abdominal distension from new large volume 
ascites. There was no evidence of heart failure, pneumonia, or 
hepatic hydrothorax on EKG and chest xray. Home Advair and 
Spiriva were restarted, and patient underwent therapeutic 
paracentesis yielding 1,200cc with improvement in respiratory 
function. No longer requiring supplemental O2 during the day, 
was able to walk 100+ ft with SpO2>94% on RA.   

#New large volume ascites: Likely due to the progression of 
liver disease to cirrhosis ___ to EtOH use in the setting of HCV 
infection and liver fribrosis. Serum Albumin Ascites Gradient 
(SAAG) was 1.7, suggestive of portal HTN, Budd-Chiari syndrome, 
or CHF. The was no evidence of CHF on EKG or CXR. RUQ U/S showed 
liver cirrhosis but no portal venous thrombosis. Diagnostic 
paracentesis performed in ED was negative for SBP. Ascites fluid 
cultures did not grow anything. A therapeutic paracentesis was 
performed as an inpatient yielding 1200cc with improvement in 
the patient's abdominal discomfort as well respiratory function. 
Patient started on spiranolactone 25mg PO daily and lasix 20mg 
PO daily. Patient was educated by nutrition specialist on how to 
maintain low sodium diet. Due to continued abdominal pain, KUB 
was obtained which was negative for free air. Patient was then 
sent for ___ guided tap but only a small volume of ascites was 
found which was insufficient for therapeutic paracentesis. 
Patient discharged with ultram for pain control. Appointment was 
made for patient to follow-up with Dr. ___ on ___ 
___, at which time she will have her serum electolytes 
checked again (K increased from 4.1 to 4.4 after 2 days on 
lasix/aldactone). An appointment was also made for patient to 
follow-up with hepatology as an outpatient. 

#Transaminitis: Patient presented with an elevated AST(245) and 
ALT(89). AST/ALT ratio >2:1, suggestive of alcoholic hepatitis, 
which is consistent with her drinking history. Alk phos was also 
elevated at 233. Tbili was normal at 1.1. ___ DF on 
admission was 11. AST, ALT, and Alk Phos trended down slightly 
during her stay. Tbili remained normal throughout her stay. 
Patient was counseled about the importance of stopping alcohol 
as well as cocaine use.

#Alcoholic/HCV cirrhosis: ___ liver biospy showed stage ___ 
fibrosis, however ascites on exam suggests cirrhosis. CT abd/pel 
w/o contrast showed new ascites, no acute liver changes. RUQ 
ultrasound showed cirrhosis of the liver but no PVT. Given 
patient's known HCV and heavy ETOH use, the progression to 
cirrhosis is not surprising. MELD score 11. Repeat EGD 
___ showed erythema and mosaic appearance in the whole 
stomach compatible with portal hypertensive gastropathy. No 
evidence of esophageal varices. Nodularity and erythema in the 
duodenal bulb compatible with duodenitis. Continued 
pantoprazole. INR on admission was 1.3 and remained between 
1.3-1.5 during her stay.  Patient counseled on substance abuse 
cessation. Appointment made for patient to follow-up with 
hepatologist as an outpatient.
 
#Elevated AFP: AFP slightlty elevated at 11.5 (nl ___. AFP 
can be elevated in several types of malignancy, including HCC. 
Although no concerning liver lesion was identified on RUQ 
ultrasound ___, patient should follow-up with a 
hepatologist as an outpatient to continue monitoring for the 
development of malignancy.  

#ETOH use: Patient has history of EtOH use, told the ED she 
drank daily but on the floor stated she drank two 24oz beer cans 
two times a week. Patient was monitored on CIWA due to concern 
of possible alcohol withdrawal. Social work consulted, offered 
support and information on substance abuse cessation. Patient 
was started on thiamine, B12, folate, and multivitamins. 

#Macrocytosis: CBC showed marocytosis likely related to her 
liver disease. Nutrition consult obtained and patient started on 
thiamine, B12, folate, and multivitamins given her history of 
alcohol use. 

#Hypoalbunemia: Albumin on admission was low 3.4, likely due to 
her liver disease as well as poor nutrition. Nutrition consult 
obtained. 

#COPD: Current presentation of SOB partly due to having run out 
of the inhalers she takes on a daily basis for her COPD. 
Restarted inhalers with good improvement in respiratory 
function. 

#PVD: Continued ASA 81mg qD.

#HTN: Continued valsartan.

#GERD: Continued pantoprazole. 

Transitional Issues
(1) Patient has appointment to follow-up with hepatologist as 
outpatient. 
(2) Elevated AFP will need to be ___ need periodic 
RUQ U/S to assess for malignancy. 
(3) Please check electrolytes at PCP appt after discharge in the 
setting of being sent home on lasix/aldactone.
(4) Consider continuing diuresis in the setting of her ascites 
(5) The patient was sent home with 7 tramadolol pills to help 
with her abdominal pain. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
2. FoLIC Acid 1 mg PO DAILY 
3. Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN SOB, wheezing 
4. Aspirin EC 81 mg PO DAILY 
5. NIFEdipine CR 90 mg PO DAILY 
6. Simvastatin 20 mg PO QPM 
7. Triamterene-Hydrochlorothiazide (37.5/25) 1 CAP PO DAILY 
8. Fluticasone Propionate NASAL 1 SPRY NU BID 
9. Albuterol Inhaler 2 PUFF IH Q4-6H PRN SOB, wheezing 
10. Pantoprazole 80 mg PO BID 
11. Tiotropium Bromide 1 CAP IH DAILY 
12. Valsartan 320 mg PO DAILY 
13. Multivitamins 1 TAB PO DAILY 
14. Ferrous Sulfate 325 mg PO DAILY 
15. Caltrate 600+D Plus Minerals 
(
C
a
-___ 
600-400 mg-unit  oral Daily 
16. Amitriptyline 50 mg PO HS 
17. Gabapentin 300 mg PO BID 
18. Loratadine 10 mg PO DAILY:PRN allergies 

 
Discharge Medications:
1. Loratadine 10 mg PO DAILY:PRN allergies 
2. Fluticasone Propionate NASAL 1 SPRY NU BID 
3. Ferrous Sulfate 325 mg PO DAILY 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0
4. Caltrate 600+D Plus Minerals 
(
C
a
-___ 
600-400 mg-unit  oral Daily 
5. Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN SOB, wheezing 
6. Simvastatin 20 mg PO QPM 
RX *simvastatin 20 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
7. Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet,delayed release (___) by 
mouth daily Disp #*30 Tablet Refills:*0
8. Tiotropium Bromide 1 CAP IH DAILY 
RX *tiotropium bromide [Spiriva with HandiHaler] 18 mcg 1 cap 
inh daily Disp #*30 Capsule Refills:*0
9. Valsartan 320 mg PO DAILY 
RX *valsartan [Diovan] 320 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0
10. Multivitamins 1 TAB PO DAILY 
RX *multivitamin   1 capsule(s) by mouth daily Disp #*30 Capsule 
Refills:*0
11. FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
12. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
RX *fluticasone-salmeterol [Advair Diskus] 500 mcg-50 mcg/Dose 1 
inh po twice a day Disp #*1 Each Refills:*0
13. Aspirin EC 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet,delayed release (___) by mouth 
daily Disp #*30 Tablet Refills:*0
14. Albuterol Inhaler 2 PUFF IH Q4-6H PRN SOB, wheezing 
RX *albuterol  2 puffs PO q4-6 hr Disp #*1 Inhaler Refills:*0
15. Thiamine 100 mg PO DAILY 
RX *thiamine HCl 100 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
16. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0
17. Senna 8.6 mg PO BID 
RX *sennosides [senna] 8.6 mg 1 tab by mouth twice a day Disp 
#*60 Capsule Refills:*0
18. Furosemide 20 mg PO DAILY 
RX *furosemide 20 mg 1 tablet(s) by mouth daily Disp #*10 Tablet 
Refills:*0
19. Spironolactone 25 mg PO DAILY 
RX *spironolactone 25 mg 1 tablet(s) by mouth daily Disp #*10 
Tablet Refills:*0
20. TraMADOL (Ultram) 50 mg PO Q8H:PRN pain  
please do not drive or operate heavy machinery while taking, 
please avoid alcohol while taking 
RX *tramadol 50 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*7 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Likely cirrhosis
Ascites 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was pleasure taking care of you during your hospital stay at 
___. As you know, you were 
admitted to the hospital because you were having abdominal 
discomfort and shortness of breath. We performed blood tests 
which showed that your liver was injured, likely as a result of 
you drinking alcohol on top of having Hepatitis C.

An ultrasound showed that your liver has become scarred, which 
can represent a condition known as cirrhosis. 

Because of your liver not working well, fluid accumulated in 
your belly and made you feel uncomfortable. We removed some of 
the fluid from your belly to alleviate your belly pain. We also 
tested the fluid to make sure it was not infected and it was 
not. People who have cirrhosis sometimes develop varices 
(distended veins) in their esophagus which can bleed 
significantly. We performed an upper endoscopy and did not see 
any varices in you. In order to prevent even more damage to your 
liver, it is very important that you stop drinking alcohol and 
stop using cocaine.

In order to decrease the chance of fluid reaccumulating in your 
belly, we started you on two new medications (lasix and 
aldactone). You will need to go on a low salt diet as was 
explained to you by the dietician. 

We have made an appointment for you to follow-up with Dr. ___ 
___ ___. We have also made an 
appointment for you to see a liver doctor (___) on 
___ for further management of your likely liver 
cirrhosis and hepatitis C.
 
The shortness of breath you were experiencing when you came into 
the hospital was probably due to a combination of the belly 
fluid as well as you not being able to take the inhalers for 
your COPD. After we removed some of the belly fluid and gave you 
your inhalers, your breathing improved. It is important that you 
follow-up with your primary care doctor to ensure that you 
maintain a constant supply of your medications.
 
Followup Instructions:
___